US09029391B2
Methyl [4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl](ethyloxy)acetate
A solution of methyl 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-hydroxyacetate (50 mg, 0.142 mmol) in Tetrahydrofuran (THF) (1 mL) was treated with LiHMDS (0.213 mL, 0.213 mmol) and iodoethane (0.069 mL, 0.854 mmol) at 0° C. The mixture was stirred at room temperature for 1 hour and then quenched with saturated NH4Cl solution. The mixture was extracted with ethyl acetate, washed with saturated NaHCO3 solution and brine, dried over Na2SO4, filtered and concentrated. The residue was used crude in the next step without further purification (44 mg, 82%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.47-8.55 (m, 1 H) 7.46-7.55 (m, 2 H) 7.06-7.21 (m, 3 H) 6.85-6.96 (m, 1 H) 4.87-4.98 (m, 1 H) 3.65-3.68 (m, 2 H) 3.66 (s, 3 H) 2.86-3.00 (m, 3 H) 2.42 (s, 3 H) 2.02 (s, 3 H) 1.10-1.24 (m, 3 H). LC/MS (m/z) ES+=380 (M+1).

reactant | methyl 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-hydroxyacetate | 0.142 mmol, 50 mg | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(C(=O)OC)O | C21H21NO4
reactant | LiHMDS | 0.213 mmol, 0.213 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | iodoethane | 0.854 mmol, 0.069 mL | ICC | C2H5I
solvent | Tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | Methyl [4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl](ethyloxy)acetate | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(C(=O)OC)OCC | C23H25NO4
